US05576324
5-Allyloxy-4,4-dimethyl-3,4-dihydrocarbostyril
4,4-Dimethyl-5-hydroxy-3,4-dihydrocarbostyril (3.45 g, 18.0 mmol) was dissolved in dimethylformamide (100 ml). To the solution, potassium carbonate (2.99 g, 21.7 mmol) and allyl iodide (3.33 g, 19.9 mmol) were added, and the mixture was stirred at 100° C. for 24 hours. Subsequently, potassium carbonate (1.5 g, 10.9 mmol) and allyl iodide (1.65 g, 9.82 mmol) were added and stirring was continued for 24 hours. The reaction mixture was condensed under reduced pressure. Chloroform and water were added to the residue, and extracted. After the extract was dried and condensed, the residue was purified by silica gel column chromatography (developer=chloroform:methanol=50:1). Recrystallization from a solvent mixture of chloroform-hexane-ether yielded 2.06 g of the title compound as pale yellow needles (52.3%).

reactant | 4,4-Dimethyl-5-hydroxy-3,4-dihydrocarbostyril | 18.0 mmol, 3.45 g | CC1(CC(NC2=CC=CC(=C12)O)=O)C | C11H13NO2
reactant | potassium carbonate | 21.7 mmol, 2.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 19.9 mmol, 3.33 g | C(C=C)I | C3H5I
reactant | potassium carbonate | 10.9 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl iodide | 9.82 mmol, 1.65 g | C(C=C)I | C3H5I
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5-Allyloxy-4,4-dimethyl-3,4-dihydrocarbostyril | 2.06 g, 52.3% | C(C=C)OC1=C2C(CC(NC2=CC=C1)=O)(C)C | C14H17NO2
